US06921763B2
A mixture of N-benzo[d]isoxazol-3-yl-N-(4-bromophenyl)amine (1.30 g, 0.0045 mol), diboron pinacol ester (1.37 g, 0.0054 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.10 g, 0.000135 mol) and potassium acetate (1.32 g, 0.0135 mol) in N,N-dimethylformamide (35 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. Dichloromethane (70 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil that was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:5) as mobile phase to yield N-benzo[d]isoxazol-3-yl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.40 g, 0.00119 mol) as a white solid.

reactant | N-benzo[d]isoxazol-3-yl-N-(4-bromophenyl)amine | 0.0045 mol, 1.30 g | O1N=C(C2=C1C=CC=C2)NC2=CC=C(C=C2)Br | C13H9BrN2O
reactant | diboron pinacol ester | 0.0054 mol, 1.37 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.000135 mol, 0.10 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0135 mol, 1.32 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | N-benzo[d]isoxazol-3-yl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.00119 mol, 0.40 g | O1N=C(C2=C1C=CC=C2)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C19H21BN2O3
